US07820704B2
1-Thiocarbamoyl-1H-indazole-3-carboxylic acid methyl ester was prepared (113 mg) following general procedure D using 1H-Indazole-3-carboxylic acid methyl ester (120 mg, 0.69 mmol), Fmoc isothiocyanate (213 mg, 0.76 mmol), and diethyl amine (0.5 mL). LCMS m/z: 236 (M+1)+.

reactant | 1H-Indazole-3-carboxylic acid methyl ester | 0.69 mmol, 120 mg | COC(=O)C1=NNC2=CC=CC=C12 | C9H8N2O2
reactant | Fmoc isothiocyanate | 0.76 mmol, 213 mg | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N=C=S | C16H11NO2S
reactant | diethyl amine | 0.5 mL | C(C)NCC | C4H11N
product | 1-Thiocarbamoyl-1H-indazole-3-carboxylic acid methyl ester | COC(=O)C1=NN(C2=CC=CC=C12)C(N)=S | C10H9N3O2S
